US07220759B2
By the reaction in the same manner as in Example 1a, using N,N-dimethyl-2,3-dimethylbenzamide (5.8040 g) and (R)-4-(2-hydroxymethylpyrrolidin-1-yl)butyronitrile (2.75 g), (R)-3-[3-(2-hydroxymethylpyrrolidin-1-yl)propyl]-5-methyl-2H-isoquinolin-1-one (344.1 mg) was obtained.

reactant | N,N-dimethyl-2,3-dimethylbenzamide | 5.8040 g | CN(C(C1=C(C(=CC=C1)C)C)=O)C | C11H15NO
reactant | (R)-4-(2-hydroxymethylpyrrolidin-1-yl)butyronitrile | 2.75 g | OC[C@@H]1N(CCC1)CCCC#N | C9H16N2O
product | (R)-3-[3-(2-hydroxymethylpyrrolidin-1-yl)propyl]-5-methyl-2H-isoquinolin-1-one | 344.1 mg | OC[C@@H]1N(CCC1)CCCC=1NC(C2=CC=CC(=C2C1)C)=O | C18H24N2O2
